US07015218B1
Ethyl N-(3-cyano-4-neopentyloxyphenyl)glycine
To dimethylformamide solution (240 ml) containing N-(3-cyano-4-neopentyloxyphenyl)-tert-butoxycarboxamide (24.5 g) was added sodium hydride (60% content, 1.15 g) under ice-cooling and the mixture was stirred for 30 min. The mixture was warmed to room temperature and stirred further for 1 h. The reaction mixture was ice-cooled and ethyl bromoacetate (24.5 g) was added, which was followed by stirring for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 0.1N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform) to give ethyl N-tert-butoxycarbonyl-N-(3-cyano-4-neopentyloxyphenyl)glycine (36.5 g) as an oily substance. The obtained ethyl N-tert-butoxycarbonyl-N-(3-cyano-4-neopentyloxyphenyl)glycine (8.2 g) was added to trifluoroacetic acid (24 ml) at room temperature and the mixture was stirred for 1 h. The reaction mixture was poured into an aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated. The residue was purified by silica gel column chromatography (mobile phase: chloroform) to give the title compound (5.9 g), melting point: 78° C.

reactant | ethyl N-tert-butoxycarbonyl-N-(3-cyano-4-neopentyloxyphenyl)glycine | 8.2 g | C(C)C(N(C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)OC(C)(C)C)C(=O)O | C21H30N2O5
reactant | trifluoroacetic acid | 24 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Ethyl N-(3-cyano-4-neopentyloxyphenyl)glycine | 5.9 g | C(C)N(CC(=O)O)C1=CC(=C(C=C1)OCC(C)(C)C)C#N | C16H22N2O3
